US05389293
2.56 (10 millimols) of (+)-3-methyl-3-(4benzyloxyphenyl)propanol (XI-1) obtained in Preparation Example (starting material compound (V)) 1, was dissolved in 20 ml of pyridine and 1.38 g (13 millimols) of butyrylchloride was added at 30°-40° C. and reacted for 2 hours. The reaction mixture was poured into 200 ml of water and extracted with 200 ml of toluene and separated and then washed with, in the order, 1N aqueous solution of hydrochloric acid, water, 5% aqueous solution of sodium bicarbonate and water, and thereafter dried on anhydrous magnesium sulfate. After the solvent was distilled out under the reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent: toluene-ethyl acetate) to provide 3.1 g (yield: 95%) of (+)-4-benzyloxy-l-(1-methyl-3-butyryloxypropyl) benzene (VIII-9).

reactant | (+)-3-methyl-3-(4benzyloxyphenyl)propanol | CC(CCO)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H20O2
reactant | butyrylchloride | 13 millimols, 1.38 g | C(CCC)(=O)Cl | C4H7ClO
reactant | water | 200 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (+)-4-benzyloxy-l-(1-methyl-3-butyryloxypropyl) benzene | 3.1 g, yield: 95% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CCOC(CCC)=O)C | C21H26O3
